US04900858
6-Bromo-3-methyl-3,5-hexadienal (0.95 g; 5 mmol) dissolved in acetonitrile (25 cc) and pentane (25 cc) is introduced, under an argon atmosphere, into a 100-cc round flask fitted with a septum and a magnetic stirrer. Triethylamine (1 g; 10 mmol, i.e. 2 equivalents) is then added. After the mixture has been cooled to 0° C., bromotrimethylsilane (1.53 g; 2 equivalents) is added dropwise. The temperature is allowed to return to about 20° C. After 48 hours the reaction is complete. The acetonitrile phase is extracted with pentane (4×15 cc) under an argon atmosphere. After evaporation of the solvent and distillation, 6-bromo-3-methyl-1-trimethylsilyloxy-1,3,5-hexatriene (0.53 g) is obtained (b.p. 0.06 kPa=92°-95° C.). The yield is 46.8%. The structure of the product obtained is confirmed by the infrared spectrum and the proton nuclear magnetic resonance spectrum.

reactant | 6-Bromo-3-methyl-3,5-hexadienal | 5 mmol, 0.95 g | BrC=CC=C(CC=O)C | C7H9BrO
reactant | pentane | 25 cc | CCCCC | C5H12
reactant | Triethylamine | 10 mmol, 1 g, 2 equivalents | C(C)N(CC)CC | C6H15N
reactant | bromotrimethylsilane | 1.53 g, 2 equivalents | Br[Si](C)(C)C | C3H9BrSi
solvent | acetonitrile | 25 cc | C(C)#N | C2H3N
product | 6-bromo-3-methyl-1-trimethylsilyloxy-1,3,5-hexatriene | 0.53 g, yield is 46.8% | BrC=CC=C(C=CO[Si](C)(C)C)C | C10H17BrOSi
